US05814622
Preparation F: 1-Benzylaminocarbonylcyclopentanecarboxylic acid
480 mmol of butyllithium are added to 480 mmol of diisopropylamine in 600 ml of anhydrous tetrahydrofuran (THF), under argon, at -70° C. After stirring for 15 minutes at -70° C., 240 mmol of cyclopentanecarboxylic acid are added dropwise. After warming to room temperature, the mixture is heated for one hour at 50° C. The reaction medium is then cooled to -70° C. and 260 mmol of ethyl chloroformate are added. The solution is stirred for 20 minutes and then poured into ice-water. The medium is acidified with concentrated hydrochloric acid and then extracted with dichloromethane. The organic phase is then washed with water to neutral pH and then with saturated sodium chloride solution. After drying and evaporation, the expected product is obtained in the form of an oil.

reactant | butyllithium | 480 mmol | C(CCC)[Li]
reactant | diisopropylamine | 480 mmol | C(C)(C)NC(C)C | C6H15N
reactant | cyclopentanecarboxylic acid | 240 mmol | C1(CCCC1)C(=O)O | C6H10O2
reactant | ethyl chloroformate | 260 mmol | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 1-Benzylaminocarbonylcyclopentanecarboxylic acid | C(C1=CC=CC=C1)NC(=O)C1(CCCC1)C(=O)O | C14H17NO3
